*$
*//-----------------------------------------------------------------------//
*//   Part No.    : APXN160ARA560ME61G
*//   Date        : 2019/06/3
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2019 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT APXN160ARA560ME61G_20deg-C 1 2

C1 4 2 4.13e-05
C2 5 2 1.11e-05
C3 6 2 3.27e-06
R1 3 4 1.49e-02
R2 4 5 9.87e-02
R3 5 6 1.38e+00
L1 1 3 2.10e-09

.ENDS
*$
